US09340527B2
To the solution of (6-methoxyquinazolin-2-yl)methanol (4 g, 0.21 mol) in EA (30 mL) was added IBX (11.6 g, 4.2 mol, 2 eq). The reaction was stirred at 80° C. for 16 h. After filtration, the solution was evaporated in vacuum to give 6-methoxyquinazoline-2-carbaldehyde (3.8 g, yield: 95%) as a white solid. ESI-MS: m/z 189.2 ([M+1]+).

reactant | (6-methoxyquinazolin-2-yl)methanol | 0.21 mol, 4 g | COC=1C=C2C=NC(=NC2=CC1)CO | C10H10N2O2
solvent | EA | 30 mL | CC(OCC)=O | C4H8O2
product | 6-methoxyquinazoline-2-carbaldehyde | 3.8 g, yield: 95% | COC=1C=C2C=NC(=NC2=CC1)C=O | C10H8N2O2
